US08293917B2
A solution of 1-(5-bromo-pyridin-3-yl)-butylamine (470 mg, 2.0 mmol), diisopropylethylamine (0.82 mL, 4.7 mmol) and DMAP (19 mg, 0.16 mmol) in CH2Cl2 (20 mL) is treated with 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carbonyl chloride (400 mg, 1.6 mmol) and stirred for 15 hours. The reaction mixture is then diluted with CH2Cl2 (50 mL), washed with saturated aqueous ammonium chloride (2×50 mL) and brine (50 mL), dried over magnesium sulfate, filtered and concentrated in vacuo. The crude material is purified by flash chromatography on silica gel (eluted with 20 to 50% EtOAc/hexanes) to provide 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [1-(5-bromo-pyridin-3-yl)-butyl]amide as a colorless foam-solid (540 mg, 78%).

reactant | 1-(5-bromo-pyridin-3-yl)-butylamine | 2.0 mmol, 470 mg | BrC=1C=C(C=NC1)C(CCC)N | C9H13BrN2
reactant | diisopropylethylamine | 4.7 mmol, 0.82 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carbonyl chloride | 1.6 mmol, 400 mg | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)Cl | C11H8Cl2N2O
catalyst | DMAP | 0.16 mmol, 19 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid [1-(5-bromo-pyridin-3-yl)-butyl]amide | 540 mg, 78% | BrC=1C=C(C=NC1)C(CCC)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl | C20H20BrClN4O
